US04166115
A solution of 2-bromopropionyl bromide (25 g.) in dry chloroform (50 ml.) was dropwise added with stirring and ice-cooling to a solution of N,N-dimethylaniline (24 g.) in t-butanol (11 g.) and the mixture was refluxed for 2 hours. After cooling, the reaction mixture was poured into 6 N sulfuric acid (150 ml.) and extracted with ether. The extract was in turn washed with 6 N sulfuric acid, water, a 10% potassium carbonate aqueous solution and water and dried over magnesium sulfate. The solvent was distilled off to give oil of t-butyl 2-bromopropionate (21 g.).

reactant | 2-bromopropionyl bromide | 25 g | BrC(C(=O)Br)C | C3H4Br2O
reactant | N,N-dimethylaniline | 24 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | sulfuric acid | 6 N, 150 ml | S(O)(O)(=O)=O | H2O4S
reactant | t-butanol | 11 g | C(C)(C)(C)O | C4H10O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | t-butyl 2-bromopropionate | 21 g | BrC(C(=O)OC(C)(C)C)C | C7H13BrO2
